US09126927B2
Step 1. tert-butyl 8-(methylsulfanyl)-2,8-diazaspiro[4.5]decane-2-carboxylate
N,N-Diisopropylethylamine (30.0 μL, 0.000172 mol) was added to tert-butyl 2,8-diazaspiro[4.5]decane-2-carboxylate hydrochloride (18.5 mg, 0.0000668 mol) in acetonitrile (1.0 mL, 0.019 mol), followed by methanesulfonyl chloride (10.0 μL, 0.000129 mol). After stirring for 1 h the solvent was evaporated, and the residue was dried under high vacuum and was used in the next step without further purification.

reactant | N,N-Diisopropylethylamine | 0.000172 mol, 30.0 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | tert-butyl 2,8-diazaspiro[4.5]decane-2-carboxylate hydrochloride | 0.0000668 mol, 18.5 mg | Cl.C1N(CCC12CCNCC2)C(=O)OC(C)(C)C
reactant | acetonitrile | 0.019 mol, 1.0 mL | C(C)#N | C2H3N
reactant | methanesulfonyl chloride | 0.000129 mol, 10.0 μL | CS(=O)(=O)Cl | CH3ClO2S
product | tert-butyl 8-(methylsulfanyl)-2,8-diazaspiro[4.5]decane-2-carboxylate | CSN1CCC2(CCN(C2)C(=O)OC(C)(C)C)CC1 | C14H26N2O2S
